US08084448B2
B. 2-Benzyloxy-4-methoxyphenylamine
A solution of 2-benzyloxy-4-methoxy-1-nitrobenzene (700 mg) in EtOAc (15 mL) is hydrogenated over platinum oxide (70 mg) at 20 psi for 1 h. The catalyst is filtered and the filtrate evaporated to give the title compound as an oil.

reactant | 2-benzyloxy-4-methoxy-1-nitrobenzene | 700 mg | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)OC)[N+](=O)[O-] | C14H13NO4
solvent | EtOAc | 15 mL | CCOC(=O)C | C4H8O2
catalyst | platinum oxide | 70 mg | [Pt]=O
product | 2-Benzyloxy-4-methoxyphenylamine | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)OC)N | C14H15NO2
